US05852096
Triethyleneglycol monoethylether monomethacrylate
Diurethane di(meth)acrylate from 2,2,4-trimethylhexamethylene diisocyanate and 2-hydroxyethyl(methacrylate)

reactant | 2,2,4-trimethylhexamethylene diisocyanate | CC(CN=C=O)(CC(CCN=C=O)C)C | C11H18N2O2
reactant | 2-hydroxyethyl(methacrylate) | OCCOC(C(=C)C)=O | C6H10O3
product | Triethyleneglycol monoethylether monomethacrylate | C(C(=C)C)(=O)OCCOCCOCCOCC | C12H22O5
